US03968121
1-{4-[2-(1-Pyrrolidyl)ethoxy]phenyl}-2-phenylindole
Following a procedure similar to that of Example 1E but using 28.53 g. of 1-(4-hydroxyphenyl)-2-phenylindole, 300 ml. of chlorobenzene, 5.5 g. of sodium methoxide in 50 ml. of dry methyl alcohol, and N-(2-chloroethyl)pyrrolidine in 100 ml. of chlorobenzene there was obtained 36 g. of crude product, a solution of 35 g. of which was dissolved in hot acetone, treated with a solution of 18 g. of cyclohexanesulfamic acid, diluted with 200 ml. of ether to give, on recrystallization from isopropyl alcohol, 25.8 g. of 1 -{4-[2-(1-pyrrolidyl)ethoxy]-phenyl}-2-phenylindole cyclohexane sulfamate; m.p. 152.5°-153.5°C.

reactant | 1-(4-hydroxyphenyl)-2-phenylindole | OC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C20H15NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | N-(2-chloroethyl)pyrrolidine | ClCCN1CCCC1 | C6H12ClN
reactant | cyclohexanesulfamic acid | C1(CCCCC1)NS(=O)(=O)O | C6H13NO3S
reactant | 1 -{4-[2-(1-pyrrolidyl)ethoxy]-phenyl}-2-phenylindole cyclohexane sulfamate | C1(CCCCC1)NS(=O)(=O)O.N1(CCCC1)CCOC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1
solvent | acetone | CC(=O)C | C3H6O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | methyl alcohol | CO | CH4O
product | 1-{4-[2-(1-Pyrrolidyl)ethoxy]phenyl}-2-phenylindole | N1(CCCC1)CCOC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C26H26N2O
